US07528140B2
[Hydroxy(1-methylpyrrol-2-yl)methylene]methane-1,1-dicarbonitrile was synthesized in the same manner using malononitrile and 1-methylpyrrole-2-carbonylchloride. The ESI/MS data for this compound are shown below.

reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | 1-methylpyrrole-2-carbonylchloride | CN1C(=CC=C1)C(=O)Cl | C6H6ClNO
product | [Hydroxy(1-methylpyrrol-2-yl)methylene]methane-1,1-dicarbonitrile | OC(C=1N(C=CC1)C)=C(C#N)C#N | C9H7N3O
